US07618961B2
Ethyl (2-{[(4-phenoxyphenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and [(4-phenoxy)benzene]sulfonyl chloride as described in the synthetic METHOD B to give a white solid (33.5 mg) with purity >90%. MS (pos) m/z 419.3.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | [(4-phenoxy)benzene]sulfonyl chloride | C1=CC=C(C=C1)OC2=CC=C(C=C2)S(=O)(=O)Cl | C12H9ClO3S
product | Ethyl (2-{[(4-phenoxyphenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate | O(C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC | C19H18N2O5S2
